US07192657B2
To a solution of (9,9-dioctyl-9H-fluoren-2-ylethynyl)-trimethylsilane (10.3 g, 21.2 mmol) in ethanol was added potassium carbonate (2.92 g, 21.2 mmol). The mixture was stirred at room temperature for 20 hours and then filtered. The filtrate was evaporated to dryness and the residue taken up in hexane. Washing with water, drying over magnesium sulfate and evaporation gave an oil characterized as 2-ethynyl-9,9-dioctyl-9H-fluorene (7.20 g, 82% yield).

reactant | (9,9-dioctyl-9H-fluoren-2-ylethynyl)-trimethylsilane | 21.2 mmol, 10.3 g | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)C#C[Si](C)(C)C)CCCCCCCC | C34H50Si
reactant | potassium carbonate | 21.2 mmol, 2.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-ethynyl-9,9-dioctyl-9H-fluorene | 7.20 g, 82% yield | C(#C)C1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCCCCCC)CCCCCCCC | C31H42
